US07625499B2
A 30-ml four-necked flask was used, 7.87 g (23.7 mM) of p-pentadecanoxybenzaldehyde synthesized as described above and 8.65 g (11.0 mM) of p-xylylenebis(triphenylphosphonium bromide) were suspended in 100 ml of methanol, and 6.87 g (35.6 mM) of 28-percent by weight methylate was dropped thereto at room temperature (25° C.). Thereafter, aging was performed at a reflux temperature of 65° C. for 3 hours. Methanol was distilled out, and 200 ml of water was added to the residue, followed by agitation. Subsequently, the precipitate was filtrated. The resulting precipitate was further washed with water and acetone, followed by drying, so as to produce 7.49 g of 1,4-bis(4′-pentadecanoxystyryl)benzene isomer mixture (Compound (7)).

reactant | p-pentadecanoxybenzaldehyde | 23.7 mM, 7.87 g | C(CCCCCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C22H36O2
reactant | p-xylylenebis(triphenylphosphonium bromide) | 11.0 mM, 8.65 g | C1=CC=C(C=C1)[P+](CC2=CC=C(C=C2)C[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7.[Br-].[Br-]
solvent | methanol | 100 ml | CO | CH4O
product | 1,4-bis(4′-pentadecanoxystyryl)benzene | 7.49 g | C(CCCCCCCCCCCCCC)OC1=CC=C(C=CC2=CC=C(C=C2)C=CC2=CC=C(C=C2)OCCCCCCCCCCCCCCC)C=C1 | C52H78O2
